US06734191B2
AMD971 1: Preparation of 4-{[(1H-Benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-benzoic acid methyl ester
Following General Procedure B: To a solution of (1-tert-butoxycarbonyl-1H-Benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine (680 mg, 1.8 mmol) and methyl 4-formylbenzoate (295 mg, 1.8 mmol) in CH2Cl2 (10 mL) was added NaBH(OAc)3 (763 mg, 3.6 mmol) and the mixture stirred for 18 h. The resulting crude material was taken up in neat TFA (2 mL) and stirred 3 h. Saturated aqueous sodium bicarbonate (10 mL) was cautiously added, and the resulting mixture was extracted with CH2Cl2 (3×20 mL), and the combined organic extracts were dried (MgSO4), and concentrated in vacuo. Purification of the crude material by flash chromatography (silica gel, 50:2:1 CH2Cl2/MeOH/NH4OH) afforded the title compound (565 mg, 74%) as a white solid. 1H NMR (CDCl3) δ1.64-1.75 (m, 1H), 2.01-2.08 (m, 2H), 2.26-2.28 (m, 1H), 2.74-2.76 (m, 1H), 2.81-2.86 (m, 1H), 3.81 (s, 2H), 3.86 (s, 3H), 3.94 (d, 1H, J=17 Hz), 4.09 (dd, 11H, J=9, 7 Hz), 4.21 (d, 1H, J=17 Hz), 7.18-7.22 (m, 3H), 7.44 (br d, 1H, J=8 Hz), 7.49 (d, 2H, J=8 Hz), 7.50-7.53 (m, 11H), 7.64-7.66 (m, 1H), 7.91 (d, 2H, J=8 Hz), 8.70 (dd, 1H, J=5, 1 Hz); 13C NMR (CDCl3) δ21.2, 23.6, 29.0, 48.7, 51.9, 53.7, 111.0, 118.6, 121.5, 122.3, 129.3, 128.9, 129.5, 134.7, 137.2, 144.8, 146.8, 155.7, 157.1, 166.8. ES-MS m/z 427 (M+H). Anal. Calcd. for C26H26N4O2.0.6H2O.0.3CH2Cl2: C, 68.26; H, 6.05; N, 12.11. Found: C, 68.57; H, 6.12; N, 11.75.

reactant | (1-tert-butoxycarbonyl-1H-Benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine | 1.8 mmol, 680 mg | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC=C2)CNC2CCCC=1C=CC=NC21 | C22H26N4O2
reactant | methyl 4-formylbenzoate | 1.8 mmol, 295 mg | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
reactant | NaBH(OAc)3 | 3.6 mmol, 763 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-{[(1H-Benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-benzoic acid methyl ester | 565 mg, 74% | COC(C1=CC=C(C=C1)CN(C1CCCC=2C=CC=NC12)CC1=NC2=C(N1)C=CC=C2)=O | C26H26N4O2
